US07709482B2
A mixture of 1-(2-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulen-7-yl)pyrrolidine (2.0 g; 7.69 mmol) and 10% palladium on carbon (0.2 g, ˜50% water) in methanol (150 mL) was shaken under hydrogen (40 psi) for 1 h. After this time the reaction mixture was filtered through diatomaceous earth and the filtrate was concentrated under reduced pressure to afford 7-(pyrrolidin-1-yl)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-amine as an oil (quantitative yield); MS (m/e): 231 (M+H+).

reactant | 1-(2-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulen-7-yl)pyrrolidine | 7.69 mmol, 2.0 g | [N+](=O)([O-])C=1C=CC2=C(CCC(CC2)N2CCCC2)C1 | C15H20N2O2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | 7-(pyrrolidin-1-yl)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-2-amine | quantitative yield | N1(CCCC1)C1CCC2=C(CC1)C=C(C=C2)N | C15H22N2
